US07101891B2
3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid benzylamide
To a suspension of 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (50 mg, 0.11 mmol) in tetrahydrofuran (3 mL) add benzyl isocyanate (16 μL, 0.12 mmol) and follow by potassium carbonate (23 mg, 0.17). Stir the mixture at room temperature under nitrogen overnight. concentrate the mixture, partition between 20% isopropanol/chloroform and water, and separate. Wash the organic layer with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–0.5% methanol/chloroform) to give 44.4 mg of the title compound as an orange solid, 88% yield. 1H NMR: consistent with structure. MS (ion spray) 451 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 0.11 mmol, 50 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | benzyl isocyanate | 0.12 mmol, 16 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | potassium carbonate | 23 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid benzylamide | 44.4 mg, 88% yield | C(C1=CC=CC=C1)NC(=O)N1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C24H23ClN4O3
